US09260427B2
Prepared using General Procedure 7. To a stirring solution of methyl 2-amino-2-(4-bromophenyl)acetate (421 mg, 1.5 mmol), 4-(tert-butyl)benzoic acid (321 mg, 1.8 mmol), and DIEA (831 μl, 4.5 mmol) in DMF (3 mL) cooled to 0° C. was slowly added a solution of HATU (380 mg, 1.65 mmol) in DMF (1.5 mL) in a drop-wise fashion. The reaction mixture was allowed to warm slowly and stirring continued for 4 h. The reaction mixture was poured onto ice-water and the solid was filtered. The solid was dissolved in DCM (10 mL), dried over MgSO4 and evaporated to afford 532 mg (88%) of methyl 2-(4-bromophenyl)-2-(4-(tert-butyl)benzamido)acetate. LCMS-ESI (m/z) calculated for C20H22BrNO3: 403.0. found 404.1 [M+H]+, tR=3.61 min. (Method 16).

reactant | methyl 2-amino-2-(4-bromophenyl)acetate | 1.5 mmol, 421 mg | NC(C(=O)OC)C1=CC=C(C=C1)Br | C9H10BrNO2
reactant | 4-(tert-butyl)benzoic acid | 1.8 mmol, 321 mg | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | DIEA | 4.5 mmol, 831 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.65 mmol, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-bromophenyl)-2-(4-(tert-butyl)benzamido)acetate | 532 mg, 88% | BrC1=CC=C(C=C1)C(C(=O)OC)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C20H22BrNO3
